US04904675
To a suspension of nicotinic acid N-oxide (0.7 g, 5 mmol) in 10 ml of dichloromethane is added trimethylsilylcyanide (0.55 g, 5,5 mmol), and the solution is stirred for 5 min. Then dimethylcarbamoyl chloride (0.54 g, 5 mmol) is added, and stirring is continued for 5 days under reflux. After cooling, the solution is evaporated to dryness under reduced pressure, and the residue is dissolved in 50 ml of hot water. After standing overnight, the white precipitate is filtered off and is purified by column chromatography (ethyl acetate/ethanol 1:1) to yield 5-carboxy-2-cyano-pyridine, m.p. 194°-195° C., Rf =0.54.

reactant | nicotinic acid N-oxide | 5 mmol, 0.7 g | C(C1=C[N+](=CC=C1)[O-])(=O)O | C6H5NO3
reactant | trimethylsilylcyanide | 5,5 mmol, 0.55 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamoyl chloride | 5 mmol, 0.54 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-carboxy-2-cyano-pyridine | C(=O)(O)C=1C=CC(=NC1)C#N | C7H4N2O2
